US04876249
Preparation of 4-hydroxymethyl-4-ethyl-2-undecyl-2-oxazoline
26 g (130 mmoles) of dodecanoic acid and 31 g (260 mmoles) of 2-amino-2-ethyl-1,3-propanediol were condensed together by heating at 185°-190° C. for 30 hours. Work up and distillation of the residue at 160°-162° C./1 mm Hg gave 33.19 g (90%) of the product.

reactant | dodecanoic acid | 130 mmoles, 26 g | C(CCCCCCCCCCC)(=O)O | C12H24O2
reactant | 2-amino-2-ethyl-1,3-propanediol | 260 mmoles, 31 g | NC(CO)(CO)CC | C5H13NO2
product | 4-hydroxymethyl-4-ethyl-2-undecyl-2-oxazoline | 33.19 g, 90% | OCC1(N=C(OC1)CCCCCCCCCCC)CC | C17H33NO2
